US04918091
5-[4-(2-Azidoethoxy)Benzyl]-2,4-Thiazolidinedione
To a solution of 5-[4-(2-Tosyloxyethoxy)Benzyl]-2,4-Thiazolidinedione (12.5 g) in dry Dimethylsulphoxide (80 ml) was added sodium azide (2 g) in one portion. The mixture was stirred at ambient temperature for 18 hours and the resulting solution added to water (250 ml). The aqueous solution was extracted with dichloromethane (2×300 ml) and the combined organic phases were washed with water (3×300 ml), dried (MgSO4), filtered and evaporated to give the title compound as an oil which was used in the next stage without further purification.

reactant | 5-[4-(2-Tosyloxyethoxy)Benzyl]-2,4-Thiazolidinedione | 12.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H19NO6S2
reactant | sodium azide | 2 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 250 ml | O | H2O
solvent | Dimethylsulphoxide | 80 ml | CS(=O)C | C2H6OS
product | 5-[4-(2-Azidoethoxy)Benzyl]-2,4-Thiazolidinedione | N(=[N+]=[N-])CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H12N4O3S
